datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C:21](=[CH:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34].C1=C[C:71]2=[C:72](C=C1)[N:62]=[N:61][N-:10]2>>C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C-:21]([CH:20]([N:10]1[N:61]=[N:62][C:72]3=[C:71]1C=CC=C3)[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34] 10=20;20,21=21"
"CC[O:62]/[C:11](=[CH:10]/[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])[O-:12].F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:62][C:11]([CH:10]([C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:12] 10,11=10,20;12=11,12"
"C1C[CH:10]=[C:11]([N:12]2CCCC2)C1.C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2>>C[CH:20]([CH:10]1CCC[C:11]1=[N+:12]1CCCC1)[N:21]1C2=CC=CC=C2C2=C1C=CC=C2 10,11=10,20;12=11,12;20,21=21"
"CC[N:72](CC)[C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C>>CC[N:72](CC)[C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]1)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"FC1=C(F)C(F)=C([Si:63](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[O:12][C:11]2=[CH:10]CCC2)C(F)=C1F.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1>>FC1=C(F)C(F)=C([Si:63](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[O+:12]=[C:11]2CCC[CH:10]2[CH:20]([C:31]2=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)C(F)=C1F 10,11=10,20;12=11,12"
"C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC[O:82][C:71]([C-:10](C(C)C)[C:61](=[O:62])[O:112]CC)=[O:72]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC[O:82][C:71]([C:10](C(C)C)([F:20])[C:61](=[O:62])[O:112]CC)=[O:72] 10=20;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1.Cl[Zn-:11](Cl)[CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]2[CH:61]=[CH:62][C:72]3=[C:71]2[CH:76]=[CH:75][CH:74]=[CH:73]3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1.Cl[Zn:11]Cl 10,11=10,20;20,21=21,22;22,23=23"
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[N:10]1=[C:11]([O-:12])[CH:71]=[CH:72][C:61]1=[O:62]>>C[C:22]1=[C:21]([CH:20]([N:10]2[C:11](=[O:12])[CH:71]=[CH:72][C:61]2=[O:62])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]([F:62])([F:72])[F:82])O1.CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([C:10]2=CC=C(C)O2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)=[CH:22]1.[B:11]([F:62])([F:72])[F:82] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:92][C:61]([C-:10](C)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62]>>CC[O:34][C:32]([C:21]([CH:20]([C:10](C)([C:61](=[O:62])[O:92]CC)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CCC[O:62][Si:11](C)(C)[H:10].C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1>>CCC[O:62][Si+:11](C)C.C[O:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1 10,11=10,20;20,21=21"
"C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[C:74](C2=CC=CC=C2)[CH:83]=[CH:82]1.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>C[Sn:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[C:74](C2=CC=CC=C2)[CH:83]=[CH:82]1.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1.[H:10][F:20] 10,11=10,20;20,21=21"
"CC1=CC=C([S:32]([N:21]=[C:20]=[O:52])(=[O:33])=[O:43])C=C1.[O+]#C[Fe-3:63]123(C#[O+])(C#[O+])C4C[CH:10]=[CH:11][CH:62]1C2C43>>CC1=CC=C([S:32]([N-:21][C:20]([CH:10]2CC3C4C5[CH:62]([CH+:11]2)[Fe-3:63]345(C#[O+])(C#[O+])C#[O+])=[O:52])(=[O:33])=[O:43])C=C1 10,11=10,20;20,21=21"
